US06916819B2
To an ice-cold solution of 1-ethyl-2-{[2-(2,5-difluorophenyl)-1H-imidazol-1-yl]methyl}-5-amino-1H-benzimidazole (466 mg) in acetic acid (8 mL) a solution of sodium nitrite (1.1 eq) in water (4 mL) is added dropwise. After stirring at 0° C. for 1 h, a solution of sodium azide (1.3 eq) in water (5 mL) is added dropwise. Stirring is continued for 0.5 h at 0° C., and then at room temperature for 0.5 h. The reaction mixture is concentrated to ⅓ volume, water (10 mL) is added and then mixture is then extracted with ethyl acetate (3×). The combined organic layers are washed with aqueous sodium bicarbonate (2×), then washed with saturated aqueous sodium chloride, dried (MgSO4), and concentrated to give 641 mg of crude 1-Ethyl-2-{[2-(2,5-difluorophenyl)-1H-imidazol-1-yl]methyl}-5-azido-1H-benzimidazole.

reactant | 1-ethyl-2-{[2-(2,5-difluorophenyl)-1H-imidazol-1-yl]methyl}-5-amino-1H-benzimidazole | 466 mg | C(C)N1C(=NC2=C1C=CC(=C2)N)CN2C(=NC=C2)C2=C(C=CC(=C2)F)F | C19H17F2N5
reactant | sodium nitrite | 1.1 eq | N(=O)[O-].[Na+]
reactant | sodium azide | 1.3 eq | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
solvent | water | 4 mL | O | H2O
solvent | water | 5 mL | O | H2O
product | 1-Ethyl-2-{[2-(2,5-difluorophenyl)-1H-imidazol-1-yl]methyl}-5-azido-1H-benzimidazole | 641 mg | C(C)N1C(=NC2=C1C=CC(=C2)N=[N+]=[N-])CN2C(=NC=C2)C2=C(C=CC(=C2)F)F | C19H15F2N7
